### PR TITLE
[Merged by Bors] - feat(Set): helper lemmas about set cardinality

### PR DESCRIPTION
**Pull request by vlad902**
A few lemmas I needed in formalizing Dilworth's theorem and vertex covers.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Card.lean [hunk 1]
```diff
@@ -173,6 +173,10 @@ section Lattice
 theorem encard_le_encard (h : s ⊆ t) : s.encard ≤ t.encard := by
   rw [← union_diff_cancel h, encard_union_eq disjoint_sdiff_right]; exact le_self_add
 
+@[simp] theorem encard_le_card : s.encard ≤ ENat.card α := by
+  rw [← Set.encard_univ]
+  exact Set.encard_le_encard (fun _ a ↦ trivial)
```
Comment (themathqueen) [inline Mathlib/Data/Set/Card.lean]: may as well write:
```suggestion
@[simp] theorem encard_le_card : s.encard ≤ ENat.card α :=
  encard_univ _ ▸ encard_le_encard (fun _ _ ↦ trivial)
```

File: Mathlib/Data/Set/Card.lean [hunk 2]
```diff
@@ -592,6 +596,10 @@ theorem ncard_mono [Finite α] : @Monotone (Set α) _ _ _ ncard := fun _ _ ↦ n
 
 @[simp] theorem ncard_univ (α : Type*) : (univ : Set α).ncard = Nat.card α := Nat.card_univ
 
+@[simp] theorem ncard_le_card [Finite α] : s.ncard ≤ Nat.card α := by
+  rw [← Set.ncard_univ]
+  exact Set.ncard_le_ncard (fun _ a ↦ trivial) Set.finite_univ
```
Comment (themathqueen) [inline Mathlib/Data/Set/Card.lean]:
```suggestion
@[simp] theorem ncard_le_card [Finite α] : s.ncard ≤ Nat.card α :=
  ncard_univ _ ▸ ncard_le_ncard (fun _ _ ↦ trivial) finite_univ
```

File: Mathlib/Data/Set/Card.lean [hunk 3]
```diff
@@ -173,6 +173,9 @@ section Lattice
 theorem encard_le_encard (h : s ⊆ t) : s.encard ≤ t.encard := by
   rw [← union_diff_cancel h, encard_union_eq disjoint_sdiff_right]; exact le_self_add
 
+@[simp] theorem encard_le_card : s.encard ≤ ENat.card α :=
+  encard_univ _ ▸ encard_le_encard (fun _ _ ↦ trivial)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean]:
```suggestion
  encard_univ _ ▸ encard_le_encard s.subset_univ
```

File: Mathlib/Data/Set/Card.lean [hunk 4]
```diff
@@ -592,6 +595,9 @@ theorem ncard_mono [Finite α] : @Monotone (Set α) _ _ _ ncard := fun _ _ ↦ n
 
 @[simp] theorem ncard_univ (α : Type*) : (univ : Set α).ncard = Nat.card α := Nat.card_univ
 
+@[simp] theorem ncard_le_card [Finite α] : s.ncard ≤ Nat.card α :=
+  ncard_univ _ ▸ ncard_le_ncard (fun _ _ ↦ trivial) finite_univ
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean]:
```suggestion
  ncard_univ _ ▸ ncard_le_ncard s.subset_univ finite_univ
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Even smoother using the existing api; lgtm otherwie

File: Mathlib/Data/Set/Card.lean [hunk 5]
```diff
@@ -111,6 +111,9 @@ theorem encard_ne_zero : s.encard ≠ 0 ↔ s.Nonempty := by
 
 protected alias ⟨_, Nonempty.encard_pos⟩ := encard_pos
 
+theorem encard_ne_zero_of_mem {a : α} (h : a ∈ s) : s.encard ≠ 0 :=
```
Comment (vlad902) [inline Mathlib/Data/Set/Card.lean:116]: Note that this is a direct copy of `ncard_ne_zero_of_mem` which is already defined below.

```
theorem ncard_ne_zero_of_mem {a : α} (h : a ∈ s) (hs : s.Finite := by toFinite_tac) : s.ncard ≠ 0 :=
  ((ncard_pos hs).mpr ⟨a, h⟩).ne.symm
```

File: Mathlib/Data/Set/Card.lean [hunk 6]
```diff
@@ -173,12 +176,21 @@ section Lattice
...
+  encard_univ _ ▸ encard_le_encard s.subset_univ
+
 theorem encard_mono {α : Type*} : Monotone (encard : Set α → ℕ∞) :=
   fun _ _ ↦ encard_le_encard
 
 theorem encard_diff_add_encard_of_subset (h : s ⊆ t) : (t \ s).encard + s.encard = t.encard := by
   rw [← encard_union_eq disjoint_sdiff_left, diff_union_self, union_eq_self_of_subset_right h]
 
+theorem encard_diff (h : s ⊆ t) (hs : s.Finite) :
+    (t \ s).encard = t.encard - s.encard := by
```
Comment (vlad902) [inline Mathlib/Data/Set/Card.lean:193]: Note that this statement matches one that already exists for ncard:
```
theorem ncard_diff (hst : s ⊆ t) (hs : s.Finite := by toFinite_tac) :
    (t \ s).ncard = t.ncard - s.ncard := by
```

Comment (j-loreaux) [reply Mathlib/Data/Set/Card.lean:193]: Is the reason that you don't have an autoParam `:= by toFinite_tac` because we don't expect to be able to automatically prove finiteness when referring to `encard`?

This makes sense to me, I'm just confirming.

File: Mathlib/Data/Set/Card.lean [hunk 7]
```diff
@@ -652,6 +666,9 @@ theorem ncard_insert_le (a : α) (s : Set α) : (insert a s).ncard ≤ s.ncard +
   rw [(hs.mono (subset_insert a s)).ncard]
   exact Nat.zero_le _
 
+theorem one_le_ncard_insert (a : α) (s : Set α) [Finite ↑s] : 1 ≤ (insert a s).ncard :=
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Card.lean]: I think this matches the pattern we use throughout this API.
```suggestion
theorem one_le_ncard_insert (a : α) (s : Set α) (hs : s.Finite := by toFinite_tac) :
	1 ≤ (insert a s).ncard :=
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

File: Mathlib/Data/Set/Card.lean (hunk 7 above)
Comment (vlad902) [reply Mathlib/Data/Set/Card.lean]: Ah indeed, thanks!

File: Mathlib/Data/Set/Card.lean (hunk 6 above)
Comment (vlad902) [reply Mathlib/Data/Set/Card.lean:193]: Yes, I thought it made sense and then confirmed that all of the loogle hits for Set.encard, Set.Finite don't use `:= by toFinite_tac`

File: Mathlib/Data/Set/Card.lean [hunk 8]
```diff
@@ -177,12 +180,21 @@ section Lattice
 theorem encard_le_encard (h : s ⊆ t) : s.encard ≤ t.encard := by
   rw [← union_diff_cancel h, encard_union_eq disjoint_sdiff_right]; exact le_self_add
 
+theorem encard_le_card : s.encard ≤ ENat.card α :=
```
Comment (vlad902) [inline Mathlib/Data/Set/Card.lean:183]: The ncard equivalent is defined below:
```
theorem ncard_le_card [Finite α] (s : Set α) : s.ncard ≤ Nat.card α :=
  ncard_univ α ▸ ncard_le_ncard s.subset_univ
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
